US05739299
The 2-chloro-5-nitro benzene sulphonylfluoride (2.4 parts) was stirred. in glacial acetic acid (25 parts) with iron powder (2 parts). Heated to reflux and stirred at reflux for 2.5 hours, then cooled to room temperature, poured onto ice/water and allowed to stand at room temperature overnight. The resultant precipitate was filtered off and dried in air to yield the product 2-chloro-5-amino benzene sulphonylfluoride (0.8 parts).

reactant | 2-chloro-5-nitro benzene sulphonylfluoride | ClC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)F | C6H3ClFNO4S
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | iron | [Fe] | Fe
product | 2-chloro-5-amino benzene sulphonylfluoride | ClC1=C(C=C(C=C1)N)S(=O)(=O)F | C6H5ClFNO2S
